US07723330B2
Step B: Preparation of ±(3R*,4S*)-tert-butyl 4-(1-(4-methoxybenzyl)-4-(2-fluoro-4-(1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridazine-5-carboxamido)phenoxy)-1H-pyrazolo[3,4-b]pyridin-3-ylamino)-3-fluoropiperidine-1-carboxylate:
EDCI (43.6 mg, 0.227 mmol) was added to a stirred mixture of 2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid (53.2 mg, 0.227 mmol, prepared according to the procedure for Example 19, Step C), HOBt-hydrate (34.8 mg, 0.227 mmol) and DIEA (0.0792 ml, 0.455 mmol) in DCM (1 mL) at ambient temperature, and the reaction mixture was stirred for 15 minutes at ambient temperature. ±(3R*,4S*)-tert-Butyl 4-(1-(4-methoxybenzyl)-4-(4-amino-2-fluorophenoxy)-1H-pyrazolo[3,4-b]pyridin-3-ylamino)-3-fluoropiperidine-1-carboxylate (66 mg, 0.114 mmol) was then added. The resulting solution was stirred for 18 hours at ambient temperature. To a separate 1 dram vial was added an additional equivalent of the 2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid, HOBt, DIEA, and EDCI in DCM (0.5 mL). This mixture was stirred for 15 minutes, then added to the original reaction mixture, which was stirred for an additional day at ambient temperature. The crude reaction mixture was loaded directly on to a preparative TLC plate (2 mm thickness) and eluted with 10% MeOH/DCM (Rf=0.70). A second preparative TLC plate (1 mm thickness, Rf=0.17) eluting with 1:1 EtOAc/hexanes was utilized to obtain pure product (35 mg, 39%)

reactant | EDCI | 0.227 mmol, 43.6 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid | FC1=CC=C(C=C1)N1N=CC=C(C1=O)C(=O)O | C11H7FN2O3
reactant | DIEA | 0.455 mmol, 0.0792 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | (3R*,4S*)-tert-Butyl 4-(1-(4-methoxybenzyl)-4-(4-amino-2-fluorophenoxy)-1H-pyrazolo[3,4-b]pyridin-3-ylamino)-3-fluoropiperidine-1-carboxylate | 0.114 mmol, 66 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)N)F)N[C@@H]3[C@@H](CN(CC3)C(=O)OC(C)(C)C)F)C=C1 | C30H34F2N6O4
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (3R*,4S*)-tert-butyl 4-(1-(4-methoxybenzyl)-4-(2-fluoro-4-(1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridazine-5-carboxamido)phenoxy)-1H-pyrazolo[3,4-b]pyridin-3-ylamino)-3-fluoropiperidine-1-carboxylate | 35 mg, 39% | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=O)C3=CC=NN(C3=O)C3=CC=C(C=C3)F)F)N[C@@H]3[C@@H](CN(CC3)C(=O)OC(C)(C)C)F)C=C1 | C41H39F3N8O6
